US07511050B2
Step F: 7-Bromo-3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To a solution of 3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (1.0 g, 3.8 mmol) in THF (50 mL) was added N-bromosuccinimide (0.75 g, 4.2 mol). The mixture was heated at 70° C. for 1 h and concentrated in vacuum. The residue was taken up in water and EtOAc. The organic layer was separated and the aqueous layer was extracted with ethyl acetate three times. The combined organic layers were dried (MgSO4), filtered, and concentrated in vacuum. The residue was purified by preparative LCMS to provide the desired product as a white powder (0.4 g, 30% yield). 1HNMR (400 MHz, d6-DMSO): δ 4.18 (t, J=7.5 Hz, 2H), 2.71 (s, 3H), 1.79 (m, 2H), 1.29 (m, 4H), 0.84 (m, 3H). LCMS calculated for C12H16BrN6O(M+H): 339.1, 341.1; found: 339.1, 341.1.

reactant | 3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 3.8 mmol, 1.0 g | CC1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C12H16N6O
reactant | N-bromosuccinimide | 4.2 mol, 0.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-Bromo-3-methyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.4 g, 30% yield | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)C)CCCCC | C12H15BrN6O
